US06916840B2
2-[[3-(2-Amino-1,2-dioxoethyl)-2-ethyl-1-benzyl-1H-benz[g]indol-4-yl]oxy]acetic acid methyl ester hemihydrate
Preparation of 1-benzyl-2-ethyl-4-methoxybenz[g]indole. A mixture of 2-acetyl-1-benzyl-4-methoxybenz[g]indole (0.70 g, 2.1 mmol) and 10% palladium-on-carbon (300 mg) in 1:1 ethyl acetate/ethanol (50 mL) was hydrogenated at room temperature under 40 psi pressure for 18 h. Chloroform (3 mL) was added and the mixture further hydrogenated for 18 h. The mixture was filtered through Celite™ which was washed thoroughly with ethyl acetate. The combined washings were concentrated in vacuo to provide 0.47 g (70%) of the title compound as an off-white solid. 1H NMR (CDCl3) δ7.95 (d, J=8 Hz, 1H), 7.79 (d, J=8 Hz, 1H), 7.25 (m, 4H), 7.15 (t, J=7 Hz, 1H), 7.05 (d, J=8 Hz, 2H), 6.82 (s, 1H), 6.67 (s, 1H), 5.78 (s, 2H), 4.08 (s, 3H), 2.76 (q, J=7 Hz, 2H), 1.37 (t, J=7 Hz, 3H); MS ES+ m/e 315 (p+1); IR (CHCl3, cm−1) 3008, 1531, 1470.

reactant | 1-benzyl-2-ethyl-4-methoxybenz[g]indole | C(C1=CC=CC=C1)N1C(=CC2=C(C=C3C(=C12)C=CC=C3)OC)CC | C22H21NO
reactant | 2-acetyl-1-benzyl-4-methoxybenz[g]indole | 2.1 mmol, 0.70 g | C(C)(=O)C=1N(C2=C3C(=CC(=C2C1)OC)C=CC=C3)CC3=CC=CC=C3 | C22H19NO2
reactant | ethyl acetate ethanol | 50 mL | C(C)(=O)OCC.C(C)O
catalyst | palladium-on-carbon | 300 mg | [Pd] | Pd
solvent | Chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[[3-(2-Amino-1,2-dioxoethyl)-2-ethyl-1-benzyl-1H-benz[g]indol-4-yl]oxy]acetic acid methyl ester hemihydrate | 0.47 g, 70% | O.COC(COC1=C2C(=C(N(C2=C2C(=C1)C=CC=C2)CC2=CC=CC=C2)CC)C(C(=O)N)=O)=O.NC(C(=O)C2=C(N(C1=C3C(=CC(=C21)OCC(=O)OC)C=CC=C3)CC3=CC=CC=C3)CC)=O | InChI=1S/2C26H24N2O5.H2O/c2*1-3-19-22(25(30)26(27)31)23-20(33-15-21(29)32-2)13-17-11-7-8-12-18(17)24(23)28(19)14-16-9-5-4-6-10-16;/h2*4-13H,3,14-15H2,1-2H3,(H2,27,31);1H2
